US05155113
Preparation of 6-(2-chlorobenzoyloxy)-3-cyano-2-hydroxypyridine
The general procedure of Example 81 was followed using 2.00 g of 3-cyano-2,6-dihydroxypyridine and 2.57 g of 2-chlorobenzoyl chloride, thereby producing 2.21 g of the title compound in a yield of 55%.

reactant | 3-cyano-2,6-dihydroxypyridine | 2.00 g | C(#N)C=1C(=NC(=CC1)O)O | C6H4N2O2
reactant | 2-chlorobenzoyl chloride | 2.57 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
product | 6-(2-chlorobenzoyloxy)-3-cyano-2-hydroxypyridine | 2.21 g, yield of 55% | ClC1=C(C(=O)OC2=CC=C(C(=N2)O)C#N)C=CC=C1 | C13H7ClN2O3
